US07981903B2
1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinone (1.0 g, 4.0 mmol) and commercially available (R)-(−)-3-fluoropyrrolidine hydrochloride were subjected to a reductive amination analogous to the procedure for 3,3-difluoro-1′-[3-(methyloxy)-4-nitrophenyl]-1,4′-bipiperidine (Intermediate B41) to give 4-[(3R)-3-fluoro-1-pyrrolidinyl]-1-[3-(methyloxy)-4-nitrophenyl]piperidine (1.3 g, 100% yield). 1H NMR (400 MHz, d6-DMSO) δ 7.84 (d, J=9.6 Hz, 1H), 6.56 (dd, J=9.6 and 2.0 Hz, 1H), 6.47 (d, J=2.0 Hz, 1H), 5.24-5.07 (m, 1H), 3.91-3.87 (m, 5H), 3.05-2.99 (m, 2H), 2.88-2.77 (m, 2H), 2.70-2.58 (m, 1H), 2.38-2.27 (m, 2H), 2.13-2.00 (m,1H), 1.88-1.75 (m, 3H), 1.46-1.36 (m, 2H).

reactant | 1-[3-(methyloxy)-4-nitrophenyl]-4-piperidinone | 4.0 mmol, 1.0 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)=O | C12H14N2O4
reactant | (R)-(−)-3-fluoropyrrolidine hydrochloride | Cl.F[C@H]1CNCC1
reactant | 3,3-difluoro-1′-[3-(methyloxy)-4-nitrophenyl]-1,4′-bipiperidine | FC1(CN(CCC1)C1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC)F | C17H23F2N3O3
product | 4-[(3R)-3-fluoro-1-pyrrolidinyl]-1-[3-(methyloxy)-4-nitrophenyl]piperidine | 1.3 g, 100% yield | F[C@H]1CN(CC1)C1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C16H22FN3O3
